US06458772B1
3-Benzyloxycarbonylpropionic acid chloromethyl ester (2 g, 1.38 mmole) was dissolved in acetonitrile (30 ml). Sodium iodide (1.6 g, 10.9 mmole) was added to the solution After reaction at 70° C. for 3 hr, the reaction mixture was filtered and the residue was dissolved in methylene chloride (20 ml) and refiltered. The solution was dried and gave internediate 3-benzyloxycarbonylpropionic acid iodomethyl ester in quantitative yield. This intermediate is bonded to an accessible function of a drag, such as a ring hydroxy or carboxy function using conventional alkylation/acylation conditions as described generally herein. Following deprotection of the terminal carboxy, a di/trifunctional linker bearing R2, such as 1,3-bis-O-(L-valyl)glycerol or iodomethyloxy-L-valyl is acylated/alkylated thereon or R2 amide bonded thereon by conventional techniques as described herein, such as with DCC coupling agent.

reactant | 3-Benzyloxycarbonylpropionic acid chloromethyl ester | 1.38 mmole, 2 g | ClCOC(CCC(=O)OCC1=CC=CC=C1)=O | C12H13ClO4
reactant | Sodium iodide | 10.9 mmole, 1.6 g | [I-].[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-benzyloxycarbonylpropionic acid iodomethyl ester | quantitative yield | ICOC(CCC(=O)OCC1=CC=CC=C1)=O | C12H13IO4
